US07122545B2
To a suspension of 0.01 g 2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine hydrochloride in 0.8 ml tetrahydrofurane were added at 0–4° C. 0.06 ml N-ethyldiisopropylamine and 0.003 ml ethyl chloroformate in 0.26 ml tetrahydrofurane. The mixture was refluxed over night, additional 0.06 ml N-ethyldiisopropylamine and 0.05 ml ethyl chloroformate were added and heating was continued for 4 hours. 0.015 ml benzylamine were added and the mixture was kept at 80° C. for 1 hour. Silicagel was added and the solvent was distilled off. The residue was transferred to a column prefilled with silicagel and was chromatographed with ethylacetate. A second chromatography first with ethylacetate/hexane 1:1 and then with ethylacetate/methanol 9:1 yielded 0.003 g (25%) 2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridine-5-carboxylic acid ethyl ester as yellow solid; MS (ISP): m/e=444 (M+H+).

reactant | 2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine hydrochloride | 0.01 g | Cl.COC1=CC=C(C2=C1N=C(S2)C=2NC1=C(CNCC1)N2)N2CCOCC2
reactant | N-ethyldiisopropylamine | 0.06 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ethyl chloroformate | 0.003 ml | ClC(=O)OCC | C3H5ClO2
reactant | N-ethyldiisopropylamine | 0.06 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ethyl chloroformate | 0.05 ml | ClC(=O)OCC | C3H5ClO2
reactant | benzylamine | 0.015 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | tetrahydrofurane | 0.8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 0.26 ml | O1CCCC1 | C4H8O
product | 2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridine-5-carboxylic acid ethyl ester | 0.003 g, 25% | C(C)OC(=O)N1CC2=C(CC1)NC(=N2)C=2SC1=C(N2)C(=CC=C1N1CCOCC1)OC | C21H25N5O4S
